US06395734B1
Sodium metal (1.5 g) was placed in a 3 L 3-neck round bottom flask equipped with a thermometer, reflux condenser and mechanical stirring and placed in an oil bath. Absolute ethanol (1 L) was added with stirring. When the sodium had dissolved, 350 g of pentan-2,4-dione was added all at once and then 310 g of ethyl acrylate added over 30 minutes. The mixture was refluxed for 2.5 hours and then allowed to cool to room temperature overnight. Glacial acetic acid (3 mL) was added and the solvent removed by rotary evaporation. The residue was filtered through a pad of diatomaceous earth and distilled in a wiped film still at 0.1 mm. The distillate was redistilled using a 10 inch vacuum jacketed Vigreux column to give 518 g of ethyl 5-acetyl-4-oxohexanoate, BP 84-92° C. at 0.2-0.7 mm.

reactant | ethanol | 1 L | C(C)O | C2H6O
reactant | sodium | [Na] | Na
reactant | pentan-2,4-dione | 350 g | CC(CC(C)=O)=O | C5H8O2
reactant | ethyl acrylate | 310 g | C(C=C)(=O)OCC | C5H8O2
catalyst | Sodium | 1.5 g | [Na] | Na
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | ethyl 5-acetyl-4-oxohexanoate | 518 g | C(C)(=O)C(C(CCC(=O)OCC)=O)C | C10H16O4
